US06855710B2
(Z)-3-{1-[4-(N-dimethylaminocarbonylmethyl-N-(p-tolylsulphonyl)-amino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Examples 82 and 187 from (Z)-1-acetyl-3-{1-[4-(p-tolylsulphonylamino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone, bromoacetic acid-N,N-dimethylamide and potassium tert.butoxide in DMSO and subsequent treatment with sodium hydroxide solution in methanol.

reactant | (Z)-1-acetyl-3-{1-[4-(p-tolylsulphonylamino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(C)(=O)N1C(\C(\C2=CC(=CC=C12)[N+](=O)[O-])=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C30H24N4O6S
reactant | bromoacetic acid-N,N-dimethylamide | CN(C(CBr)=O)C | C4H8BrNO
reactant | potassium tert.butoxide | CC(C)([O-])C.[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | (Z)-3-{1-[4-(N-dimethylaminocarbonylmethyl-N-(p-tolylsulphonyl)-amino)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | CN(C(=O)CN(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O)C | C32H29N5O6S
